US05359066
Solid potassium tert-butoxide (823 mg) was added to tetrahydrofuran (40 ml) solution of ethyl 6,7,8-trifluoro-1-methylamino-1,4-dihydro-4-oxoquinoline-3-carboxylate (2.0 g) and tert-butyl 2-tert-butoxycarbonylacrylate (1.67 g), with stirring and suspending under ice-cooling, and the suspension was stirred for 0.5 hour with ice-cooling and then 1.5 hours at room temperature. The reaction solution was poured into a mixed liquid of ethyl acetate ice-water (150 ml/150 ml) and was adjusted to have pH of 3.0 with 1N hydrochloric acid. The organic layer was separated out, washed with water and saline solution, and dried over magnesium sulfate. This was concentrated under reduced pressure to obtain an amorphous product. The amorphous product was subjected to column chromatography with silica gel and eluted with a mixed solvent of methylene chloride ethyl acetate (20/1 to 10/1). The fractions containing the object product were collected, and the solvent was removed by distillation under reduced pressure. The residue was tritulated with n-hexane, and the precipitates were filtered out to obtain ethyl 6,7,8-trifluoro-1 -[N-methyl-N-{2,2-bis(tert-butoxycarbonyl)ethyl}amino]-1,4 -dihydro-4-oxoquinoline-3-carboxylate (1.35 g) as an almost white powder.

reactant | potassium tert-butoxide | 823 mg | CC(C)([O-])C.[K+]
reactant | ethyl 6,7,8-trifluoro-1-methylamino-1,4-dihydro-4-oxoquinoline-3-carboxylate | 2.0 g | FC=1C=C2C(C(=CN(C2=C(C1F)F)NC)C(=O)OCC)=O | C13H11F3N2O3
reactant | tert-butyl 2-tert-butoxycarbonylacrylate | 1.67 g | C(C)(C)(C)OC(=O)C(C(=O)OC(C)(C)C)=C | C12H20O4
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | ethyl 6,7,8-trifluoro-1 -[N-methyl-N-{2,2-bis(tert-butoxycarbonyl)ethyl}amino]-1,4 -dihydro-4-oxoquinoline-3-carboxylate | 1.35 g | FC=1C=C2C(C(=CN(C2=C(C1F)F)N(CC(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C)C(=O)OCC)=O | C25H31F3N2O7
